Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dizziness/vertigo 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The pt is a ___ year-old right-handed woman with HTN,
hypertensive heart disease, AF on Xarelto 20 mg daily, DM,
stroke, with recent admission for CHF and UTI, found to have
primary hyperaldosteronism (discharged ___ who presents 
with
acute onset dizziness/vertigo. 

Awoke at 4AM feeling okay. Went to BR, then on way back to bed
acute onset vertigo (horizontal room spinning, unclear which
direction), sat down. Took a drink of water and became 
nauseated,
had several episodes of NBNB emesis. Lay down and vertigo
resolved. Daughters called ___. In ambulance sitting up, again
with vertigo, asked EMS to have her lie down which they did,
vertigo improved somewhat but did not resolve. Persisted 
somewhat
improved into waiting room for ER and triage, then resolved.
Sitting semi-reclined patient denies ongoing vertigo but thinks
if she sits up will have it again. Reports that she is unsure if
lasted more than two minutes each time as she was unable to
tolerate sitting up long enough to see if it would resolve. 

Denies loss of vision, vision changes, blacking out, LOC,
headaches, numbness, weakness, difficulty thinking or speaking,
confusion. Denies congestion but reports having the "flu"/URI 
two
weeks ago, then developing the shortness of breath/CHF
exacerbation and UTI (reports no urinary or abdominal symptoms
with the UTI). 

Had multiple medication changes during her recent admission,
outlined below, notably with changes in antihypertensives and
addition of spironolactone and increase of torsemide (currently
on extensive antihypertensive regimen including isosorbide,
carvedilol, spironolactone, irbesartan, amlodipine, torsemide)
after felt that she had primary hyperaldosteronism (renin and
aldosterone still pending).  

She has permanent AF on Xarelto. She has not been off
anticoagulation since ___ when she had her thymectomy
and denies missed doses of medication. 

In ED for ED physicians per report NIHSS 0, HINTS testing no
corrective saccade, no skew.  

 
Past Medical History:
Permanent AF on rivaroxaban
HTN
HLD
DM II
Cath ___ non-obstructive CAD
HFrEF, though EF 35-40% on ___ echo
primary hyperaldosteronism - diagnosed ___
thymic mass s/p thymectomy ___
hyperparathyroidism s/p three gland parathyroidectomy ___

 
Social History:
___
Family History:
Pancreas and liver cancer.
Mother: colon cancer
Father: CHF

 
Physical ___:
Admission Physical Exam:
Vitals: 97.4   79  151/111 (137/89-164/102)  22  99% RA
General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air; few crackles at
bases, few faint scattered wheezes, good air movement 
throughout,
no increased WOB except during exertion with ___
Cardiac: irregularly irregular; palpable pulses
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: scattered skin tags; no other rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, initially some difficulty with 
___
backward given 4 person audience but with family not paying
attention able to name ___ backward without difficulty. Language
is fluent with intact repetition and comprehension. Normal
prosody. There were no paraphasic errors. Pt was able to name
both high and low frequency objects. Speech was not dysarthric.
Able to follow both midline and appendicular commands. There was
no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2mm and minimally reactive bilaterally.
EOM full with slight breakdown of smooth pursuit with ___ beats
of end gaze horizontal nystagmus bilaterally (eventually
extinguishes). With head impulse testing there seems to reliably
be a corrective saccade when head is moved to the right, though
patient has variable cooperation/ability to maintain focus on
examiner's nose. No skew. ___ bilaterally without
nystagmus. VFF to confrontation. Fundoscopic exam difficult 
given
small pupils but no obvious evidence of papilledema appreciated. 

V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, cold sensation throughout.
No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor noted. No dysmetria on FNF
bilaterally.

-Gait: Deferred given positional intolerance 

Discharge Physical Exam
MS ___, attentive, fluent CN several beats of end gaze nystagmus 
which extinguishes, no droop, motor ___ throughout. Ambulates 
with goob balance other than some missteps with tandem
 
Pertinent Results:
___ 05:00PM BLOOD WBC-7.1 RBC-4.17 Hgb-11.4 Hct-36.4 MCV-87 
MCH-27.3 MCHC-31.3* RDW-13.7 RDWSD-43.1 Plt ___
___ 07:00AM BLOOD WBC-7.4 RBC-4.47 Hgb-12.3 Hct-39.0 MCV-87 
MCH-27.5 MCHC-31.5* RDW-13.8 RDWSD-43.7 Plt ___
___ 07:00AM BLOOD Neuts-67.5 ___ Monos-6.4 Eos-3.4 
Baso-0.7 Im ___ AbsNeut-4.96 AbsLymp-1.58 AbsMono-0.47 
AbsEos-0.25 AbsBaso-0.05
___ 05:00PM BLOOD ___ PTT-36.9* ___
___ 07:00AM BLOOD ___ PTT-39.1* ___
___ 05:00PM BLOOD Glucose-113* UreaN-20 Creat-0.9 Na-142 
K-3.9 Cl-104 HCO3-29 AnGap-13
___ 07:00AM BLOOD Glucose-142* UreaN-26* Creat-1.2* Na-144 
K-4.1 Cl-104 HCO3-28 AnGap-16
___ 05:00PM BLOOD ALT-20 AST-15 LD(LDH)-243 CK(CPK)-284* 
AlkPhos-85 TotBili-0.3
___ 07:00AM BLOOD ALT-25 AST-22 AlkPhos-95 TotBili-0.3
___ 07:00AM BLOOD proBNP-718*
___ 05:00PM BLOOD TotProt-6.5 Albumin-4.2 Globuln-2.3 
Cholest-115
___ 05:00PM BLOOD %HbA1c-6.4* eAG-137*
___ 05:00PM BLOOD Triglyc-110 HDL-32 CHOL/HD-3.6 LDLcalc-61
___ 05:00PM BLOOD TSH-0.44
___ 05:00PM BLOOD CRP-3.1
___ 07:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:10AM BLOOD ___ pO2-48* pCO2-48* pH-7.40 
calTCO2-31* Base XS-3

MRI
1. No acute infarction. 
2. Small chronic infarction in the right cerebellar hemisphere. 
3. Extensive supratentorial white matter signal abnormalities 
are nonspecific, but likely sequela of chronic small vessel 
ischemic disease, given the patient's age and cardiovascular 
risk factors. 

 
Brief Hospital Course:
___ yo F with HTN, HLD, DM, CAD, AF on Xarelto, recent admission 
for CHF and UTI and recently discovered primary 
hyperaldosteronism, recent URI presenting with several episodes 
of positional vertigo. Because of her risk factors, a MRI was 
performed which was negative for any evidence of stroke. She was 
back to baseline by the morning. She was diagnosed with benign 
paroxysmal positional vertigo and discharged with a prescription 
for vestibular ___ in case her symptoms returned.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Carvedilol 50 mg PO BID 
4. Cefpodoxime Proxetil 200 mg PO Q12H 
5. Spironolactone 25 mg PO DAILY 
6. Torsemide 40 mg PO BID 
7. Aspirin 81 mg PO DAILY 
8. irbesartan 300 mg oral QHS 
9. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
10. Rivaroxaban 20 mg PO DAILY 

 
Discharge Medications:
1.  Carbamide Peroxide 6.5% ___ DROP BOTH EARS BID Cerumen 
impaction Duration: 4 Days 
___ DROP BOTH EARS BID Cerumen impaction Duration: 4 Days  
RX *carbamide peroxide 6.5 % ___ drops BOTH EARS twice daily 
Refills:*1 
2.  amLODIPine 10 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Carvedilol 50 mg PO BID  
6.  Cefpodoxime Proxetil 200 mg PO Q12H  
7.  irbesartan 300 mg oral QHS  
8.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
9.  Rivaroxaban 20 mg PO DAILY  
10.  Spironolactone 25 mg PO DAILY  
11.  Torsemide 40 mg PO BID  
12.Outpatient Physical Therapy
Vestibular Physical Therapy 
Dx: Benign paroxysmal positional vertigo (BPPV
Evaluate and Treat 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
BPPV Benign paroxysmal positional vertigo (BPPV)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___, 

You were admitted with symptoms of vertigo that occurred when 
you sat up or changed position. These are consistent with a 
condition known as benign paroxysmal positional vertigo. We 
ordered an MRI to be sure there was no evidence of stroke. It 
did not show anything concerning. We gave you a prescription for 
"vestibular ___ to provide exercises to help with the vertigo if 
it occurs again. We have also provided you with a medication to 
treat the ear wax in your ears. You should use this for the next 
four days or until symptoms resolve.  
As for your CHF, please continue to weigh yourself every 
morning, call MD if weight goes up more than 3 lbs.

It was a pleasure taking care of you. 

___ Neurology 
 
Followup Instructions:
___